US06770665B2
4,5-Dibromo-3-chlorothiophene-2-Carboxylic Acid
Ethyl 4,5-dibromo-3-chlorothiophene-2-carboxylate (5.52 g, 15.8 mmol) and lithium hydroxide (0.716 g, 31.7 mmol) were taken up in mixture of THF (30 mL) and water (30 mL). The reaction mixture was stirred at 25° C. for 32 hours. The aqueous layer was made acidic by the dropwise addition of conc hydrochloric acid and extracted with ether (3×50 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated to give the product as a white solid (4.38 g, 86%) that was used without purification: mp 209-223° C. (d); 1H NMR (CDCl3 and DMSO-d6) δ 4.15 (bs, 1H); EI/MS 320 m/e (M+).

reactant | Ethyl 4,5-dibromo-3-chlorothiophene-2-carboxylate | 15.8 mmol, 5.52 g | BrC=1C(=C(SC1Br)C(=O)OCC)Cl | C7H5Br2ClO2S
reactant | lithium hydroxide | 31.7 mmol, 0.716 g | [OH-].[Li+]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 mL | O | H2O
product | 4,5-Dibromo-3-chlorothiophene-2-Carboxylic Acid | 4.38 g, 86% | BrC=1C(=C(SC1Br)C(=O)O)Cl | C5HBr2ClO2S
